US07994203B2
Step 2: (±)-2-[3-(2,4-Dichloro-phenyl)-2,6-dimethyl-pyrazolo[5,1-b]oxazol-7-yloxy]-pentan-1-ol;
To a cooled (0° C.), stirring solution of 2-[3-(2,4-dichloro-phenyl)-2,6-dimethyl-pyrazolo[5,1-b]oxazol-7-yloxy]-pentanoic acid ethyl ester (85 mg, 0.200 mmol) in THF (2.0 ml) at is added DIBAL-H (0.400 ml, 0.400 mmol). The reaction mixture is warmed to RT and stirred for 2 hours. The mixture is added to sat. ammonium chloride (50 ml) and the product is extracted into EtOAc (2×50 ml). The combined organics are washed with brine, dried over MgSO4 and concentrated in vacuo. The crude product is purified by ISCO combiflash chromatography, eluting with 0 to 100% (iso-hexane/EtOAc) on a 12 g SiO2-column to yield the title compound as a white solid; MS: m/z 385.13 [M+H]+.

reactant | 2-[3-(2,4-dichloro-phenyl)-2,6-dimethyl-pyrazolo[5,1-b]oxazol-7-yloxy]-pentanoic acid ethyl ester | 0.200 mmol, 85 mg | C(C)OC(C(CCC)OC=1C(=NN2C1OC(=C2C2=C(C=C(C=C2)Cl)Cl)C)C)=O | C20H22Cl2N2O4
reactant | DIBAL-H | 0.400 mmol, 0.400 ml | CC(C)C[AlH]CC(C)C
reactant | ammonium chloride | 50 ml | [Cl-].[NH4+]
solvent | THF | 2.0 ml | C1CCOC1 | C4H8O
product | (±)-2-[3-(2,4-Dichloro-phenyl)-2,6-dimethyl-pyrazolo[5,1-b]oxazol-7-yloxy]-pentan-1-ol | ClC1=C(C=CC(=C1)Cl)C=1N2C(OC1C)=C(C(=N2)C)OC(CO)CCC | C18H20Cl2N2O3
